US08455399B2
3-amino-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide (Compound No. B2 of Table B)
A solution of N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide (473 mg, 0.89 mmol) (Example I2) in ethanol (9 ml) was charged with palladium on carbon (10%) (140 mg, 0.13 mmol) and was stirred under a atmosphere of hydrogen for 15 hours. The reaction mixture was filtered and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:4) to give Compound No. B2 of Table B (328 mg, 74% yield) and Compound No. C1 of Table C (18 mg, 4% yield).

reactant | N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide | 0.89 mmol, 473 mg | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)CC)NC(C1=CC(=C(C=C1)N1N=CN=C1)[N+](=O)[O-])=O | C22H18F7N5O3
solvent | ethanol | 9 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.13 mmol, 140 mg | [Pd] | Pd
product | 3-amino-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide | 74% yield | NC=1C=C(C(=O)NC2=C(C=C(C=C2CC)C(C(F)(F)F)(C(F)(F)F)F)CC)C=CC1N1N=CN=C1 | C22H20F7N5O
